US06552022B1
6-Methyl-4′-trifluoromethyl-biphenyl-2-carboxylic Acid [4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenyl]-amide
To a stirred solution of 4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenylamine (400 mg), 6-methyl-4′-trifluoromethyl-biphenyl-2-carboxylic acid (460 mg), HOBt (222 mg), and Et3N (166 mg) in CH2Cl2 (20 mL) was added at room temperature EDCl (315 mg) and the mixture was stirred at room temperature for 16 hours. The organic solution was then washed with water, with a saturated solution of NaHCO3 and dried over Na2SO4. After filtration and evaporation of the filtrate, the residue was purified by flash chromatography eluting with CH2Cl2/MeOH (98/2) and crystallized from AcOEt to give the title compound (122 mg) as white crystals.

reactant | 4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenylamine | 400 mg | C(#N)C=1C=C(CN2CCN(CC2)C2=CC=C(C=C2)N)C=CC1 | C18H20N4
reactant | 6-methyl-4′-trifluoromethyl-biphenyl-2-carboxylic acid | 460 mg | CC=1C=CC=C(C1C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C15H11F3O2
reactant | HOBt | 222 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 315 mg | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 166 mg | CCN(CC)CC | C6H15N
product | 6-Methyl-4′-trifluoromethyl-biphenyl-2-carboxylic Acid [4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenyl]-amide | 122 mg | C(#N)C=1C=C(CN2CCN(CC2)C2=CC=C(C=C2)NC(=O)C=2C(=C(C=CC2)C)C2=CC=C(C=C2)C(F)(F)F)C=CC1 | C33H29F3N4O
